US04705896
A solution of 2-hydroxy-5-nonyl benzophenone, 15 g, in 100 mL methylene chloride was mixed with a solution of 9.25 g NaOH in 100 mL water. To this mixture was added 6.9 g n-pentyl bromide and 1.48 g tetra-n-butylv ammonium bromide. The whole mixture was then vigorously agitated overnight at 40° C. After cooling to room temperature with 50 mL CH2Cl2. The combined methylene chloride layers were concentrated to an oil, which was taken up in 100 mL petroleum ether and washed with 100 mL water. Finally, the organic layer was dried over anhydrous magnesium sulfate and the volatiles removed under vacuum to give 15 g (82% yield) of 2-n-pentoxy-5-nonyl benzophenone.

reactant | 2-hydroxy-5-nonyl benzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)CCCCCCCCC | C22H28O2
reactant | NaOH | 9.25 g | [OH-].[Na+]
reactant | n-pentyl bromide | 6.9 g | C(CCCC)Br | C5H11Br
reactant | ammonium bromide | 1.48 g | [Br-].[NH4+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-n-pentoxy-5-nonyl benzophenone | 15 g, 82% yield | C(CCCC)OC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)CCCCCCCCC | C27H38O2
